US06355653B1
2-(2,4-Dichloro-phenyl)-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-acetamide
The title compound, MS m/e (%): 474 (M+H+, 100), was prepared in accordance with the general method of example 31 from 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine and 2,4-dichlorophenylacetyl chloride.

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | 2,4-dichlorophenylacetyl chloride | ClC1=C(C=CC(=C1)Cl)CC(=O)Cl | C8H5Cl3O
product | 2-(2,4-Dichloro-phenyl)-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-acetamide | ClC1=C(C=CC(=C1)Cl)CC(=O)NC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2 | C25H17Cl2N5O
